US07368462B1
Preparation of (6-dimethylaminomethyl-naphthalen-1-ylmethyl)-methyl-amine (9):
To a room temperature solution of (6-dimethylcarbamoyl-naphthalen-1-ylmethyl)-carbamic acid tert-butyl ester, 8, (20.45 g, 62.4 mmol) in anhydrous THF (300 mL) is added 1 M LAH in THF (125 mL, 2 eq.). After the addition is complete the resulting solution is heated at reflux for 3 hours. The reaction solution is then cooled in an ice bath and quenched by the addition of water (2.7 mL). The resulting mixture is dried over MgSO4. The solid is removed by filtration and the filtrate concentrated in vacuo to afford 14.25 g of the desired product as a colorless oil. LRMS: 229.05 (M+1).

reactant | (6-dimethylcarbamoyl-naphthalen-1-ylmethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC=CC2=CC(=CC=C12)C(N(C)C)=O)=O | C19H24N2O3
reactant | LAH | 1 M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 125 mL, 2 eq. | C1CCOC1 | C4H8O
product | (6-dimethylaminomethyl-naphthalen-1-ylmethyl)-methyl-amine | 14.25 g | CN(C)CC=1C=C2C=CC=C(C2=CC1)CNC | C15H20N2
